US07544693B2
Ethyl 2-(2-ethoxycarbonyl-3-pyridyloxy)acetate (13.6 g, 54.0 mmol) and sodium ethoxide (8.08 g, 118.8 mmol) in toluene (200 mL) were heated under reflux for 18 h. After cooling, a precipitate was collected by filtration, dissolved in the minimum amount of hot water (about 300 mL), and acidified with acetic acid (6 mL). The resulting precipitate was filtered, and dried in vacuo to give ethyl 3-hydroxyfuro[3,2-b]pyridine-2-carboxylate as a solid (7.0 g).

reactant | Ethyl 2-(2-ethoxycarbonyl-3-pyridyloxy)acetate | 54.0 mmol, 13.6 g | C(C)OC(=O)C1=NC=CC=C1OCC(=O)OCC | C12H15NO5
reactant | sodium ethoxide | 118.8 mmol, 8.08 g | [O-]CC.[Na+]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-hydroxyfuro[3,2-b]pyridine-2-carboxylate | 7.0 g | OC1=C(OC=2C1=NC=CC2)C(=O)OCC | C10H9NO4
